US07504403B2
{1-[3-(2-Amino-propyl)-phenyl]-1-methyl-ethyl}-carbamic acid tert-butyl ester:
To a mixture of {1-[3-(2-benzyloxycarbonylamino-propyl)-phenyl]-1-methyl-ethyl}-carbamic acid tert-butyl ester (0.28 g, 0.65 mmol), 1,4-cyclohexadiene (0.31 mL, 3.25 mmol) and Pd/C (cat.) in methanol was heated to reflux for 17 h. The mixture was filtered through celite and concentrated to afford light yellow oil. M+1=293.

reactant | {1-[3-(2-benzyloxycarbonylamino-propyl)-phenyl]-1-methyl-ethyl}-carbamic acid tert-butyl ester | 0.65 mmol, 0.28 g | C(C)(C)(C)OC(NC(C)(C)C1=CC(=CC=C1)CC(C)NC(=O)OCC1=CC=CC=C1)=O | C25H34N2O4
reactant | 1,4-cyclohexadiene | 3.25 mmol, 0.31 mL | C1=CCC=CC1 | C6H8
solvent | methanol | CO | CH4O
catalyst | Pd/C | [Pd] | Pd
product | {1-[3-(2-Amino-propyl)-phenyl]-1-methyl-ethyl}-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NC(C)(C)C1=CC(=CC=C1)CC(C)N)=O | C17H28N2O2
